US05292767
To a stirred solution of tert-butyl 4-mesyloxy-2-methylene-6-tetrahydropyranyloxyhexanoate (1.38 g) in dimethylformamide (20 ml), sodium hydrosulfide hydrate (0.34 g) was added under nitrogen atmosphere and ice-cooling and the mixture was stirred for 7 hours. Water was added to the mixture and extracted with diethylether. The organic layer was washed with saturated aqueous sodium bicarbonate solution, water and saturated sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and concentrated in vacuo. The oily residue was purified by a silica gel column chromatography to give 0.67 g (58%) of 4-tert-butoxycarbonyl-2-(2-tetrahydropyranyloxyethyl)tetrahydrothiophene.

reactant | tert-butyl 4-mesyloxy-2-methylene-6-tetrahydropyranyloxyhexanoate | 1.38 g | S(=O)(=O)(C)OC(CC(C(=O)OC(C)(C)C)=C)CCOC1OCCCC1 | C17H30O7S
reactant | sodium hydrosulfide hydrate | 0.34 g | O.[SH-].[Na+]
reactant | Water | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 4-tert-butoxycarbonyl-2-(2-tetrahydropyranyloxyethyl)tetrahydrothiophene | 0.67 g, 58% | C(C)(C)(C)OC(=O)C1CC(SC1)CCOC1OCCCC1 | C16H28O4S
